US06046201
Ethyl 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate
To 55.69 g of ethyl 6-chloropyridine-3-carboxylate was added 115 ml of 1-ethylpiperazine and the mixture was heated with stirring (55-137° C.) for 5 minutes. After completion of the reaction, the 1-ethylpiperazine was distilled off under reduced pressure, the residue was crystallized from water-metanol. The crystal was washed with water and then dried under reduced pressure to afford 71.89 g of the title compound as a colorless crystal.

reactant | ethyl 6-chloropyridine-3-carboxylate | 55.69 g | ClC1=CC=C(C=N1)C(=O)OCC | C8H8ClNO2
reactant | 1-ethylpiperazine | 115 ml | C(C)N1CCNCC1 | C6H14N2
product | Ethyl 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxylate | 71.89 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)OCC | C14H21N3O2
